US07608599B2
Cyclopentylglycine ethyl ester hydrochloride salt was prepared by the procedure in Example 1(B) utilizing cyclopentylglycine (5.0 g, 38.7 mmol), thionyl chloride (6.0 mL, 77.4 mmol) and EtOH (34.10 mL, 58.1 mmol). The ethyl ester 14aj was obtained as a white solid (2.25 g, 10.86 mmol, 56%).

reactant | cyclopentylglycine | 38.7 mmol, 5.0 g | C1(CCCC1)NCC(=O)O | C7H13NO2
reactant | thionyl chloride | 77.4 mmol, 6.0 mL | S(=O)(Cl)Cl | Cl2OS
reactant | EtOH | 58.1 mmol, 34.10 mL | CCO | C2H6O
product | Cyclopentylglycine ethyl ester hydrochloride salt | Cl.C(C)OC(CNC1CCCC1)=O | InChI=1S/C9H17NO2.ClH/c1-2-12-9(11)7-10-8-5-3-4-6-8;/h8,10H,2-7H2,1H3;1H
